US07585891B2
Step C Synthesis of 2-[4-(2,2-dimethylbenzo[d]1,3-dioxolan-5-oxy)butoxy]-1,3-dichloro-5-(phenylmethoxy)benzene as an Intermediate
A stirred solution of 0.3 gram (0.00083 mole) of 1,3-dichloro-2-(4-chlorobutoxy)-5-(phenylmethoxy)benzene, 0.17 gram (0.00100 mole) of 2,2-dimethylbenzo[d]1,3-dioxolan-4-ol, and 0.17 gram (0.00125 mole) of potassium carbonate in 10 mL of DMF was heated at 80° C. for about 18 hours. After this time, the reaction mixture was cooled and 30 mL of water was added. The mixture was then extracted with three 20 mL portions of diethyl ether. The combined extracts were washed with 20 mL of an aqueous solution saturated with sodium chloride. The organic layer was dried with sodium sulfate, filtered, and concentrated under reduced pressure to a residue. The residue was purified with column chromatography on silica gel using 1:1 methylene chloride:hexane as an eluant. The appropriate fractions were combined and concentrated under reduced pressure, yielding 0.29 gram of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 1,3-dichloro-2-(4-chlorobutoxy)-5-(phenylmethoxy)benzene | 0.00083 mole, 0.3 gram | ClC1=C(C(=CC(=C1)OCC1=CC=CC=C1)Cl)OCCCCCl | C17H17Cl3O2
reactant | 2,2-dimethylbenzo[d]1,3-dioxolan-4-ol | 0.00100 mole, 0.17 gram | CC1(OC2=C(O1)C=CC=C2O)C | C9H10O3
reactant | potassium carbonate | 0.00125 mole, 0.17 gram | C([O-])([O-])=O.[K+].[K+]
reactant | water | 30 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-[4-(2,2-dimethylbenzo[d]1,3-dioxolan-5-oxy)butoxy]-1,3-dichloro-5-(phenylmethoxy)benzene | 0.29 gram | CC1(OC2=C(O1)C=CC(=C2)OCCCCOC2=C(C=C(C=C2Cl)OCC2=CC=CC=C2)Cl)C | C26H26Cl2O5
